US08809447B2
Preparation of 3-(methacryloyloxy)-2,2-dimethylpropyl 3-oxobutanoate
To a 2-L flask was charged neopentyl glycol (208.3 g, 2.0 moles), toluene (250 mL), hydroquinone (0.5 g) and sodium methoxide (25% in methanol, 8 g). The mixture was heated to 60-65° C. and methyl methacrylate (120 g, 1.2 moles) was added dropwise over 1 hour. The reaction was held at 70° C. for one hour under moderate vacuum to remove methanol and low boilers. Reaction was worked up by washing with 2×250 mL water and 1×100 mL saturated sodium chloride solution at 70° C. Toluene was evaporated and the resulting crude product (166 g) distilled to provide 3-hydroxy-2,2-dimethylpropyl methacrylate of 97% GC assay. To a 300 mL flask was charged 3-hydroxy-2,2-dimethylpropyl methacrylate (11.5 g, 0.064 moles), methylene chloride (20 g), DMAP (0.01 g), hydroquinone (0.05 g) and the mixture cooled to 0-5° C. To this was added dropwise diketene (5.4 g) at <3° C. Reaction allowed to warm to room temperature and stir overnight. Reaction cooled to 0-5° C. and additional diketene (2 g) added to complete reaction. Once reaction was complete, the dichloromethane was removed at 60° C. with house vacuum. Crude product distilled via Kugelrohr distillation to provide desired product of 92.6% assay with 1.6% starting material remaining (GC assay).

reactant | 3-hydroxy-2,2-dimethylpropyl methacrylate | 0.064 moles, 11.5 g | C(C(=C)C)(=O)OCC(CO)(C)C | C9H16O3
reactant | hydroquinone | 0.05 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | diketene | 5.4 g | C=C1CC(=O)O1 | C4H4O2
reactant | diketene | 2 g | C=C1CC(=O)O1 | C4H4O2
catalyst | DMAP | 0.01 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 20 g | C(Cl)Cl | CH2Cl2
product | 3-(methacryloyloxy)-2,2-dimethylpropyl 3-oxobutanoate | O=C(CC(=O)OCC(COC(C(=C)C)=O)(C)C)C | C13H20O5
